US06326386B1
3-Chloro-N-(2-fluoro-phenyl)-5-[2-(pyridin-4-ylamino)-ethoxy]-N-(3-tetrazol-2-yl-propyl)-benzamide
A solution of {2-[3-chloro-5-(2-fluorophenyl-(3-tetrazol-2-yl-propyl)-carbamoyl)-phenoxy]-ethyl}-pyridin-4-yl-carbamic acid tert-butyl ester (0.048 g) in trifluoroacetic acid (0.5 ml) and dichloromethane (0.5 ml) was stirred at room temperature for 1 h then concentrated under vacuum. The residue was purified by flash chromatography, eluting with dichloromethane:methanol:ammonia (95:5:0.5 then 90:10:1 v/v/v), to give the title compound as an off-white foam (0.035 g).

reactant | {2-[3-chloro-5-(2-fluorophenyl-(3-tetrazol-2-yl-propyl)-carbamoyl)-phenoxy]-ethyl}-pyridin-4-yl-carbamic acid tert-butyl ester | 0.048 g | C(C)(C)(C)OC(N(C1=CC=NC=C1)CCOC1=CC(=CC(=C1)C(N(CCCN1N=CN=N1)C1=C(C=CC=C1)F)=O)Cl)=O | C29H31ClFN7O4
solvent | trifluoroacetic acid | 0.5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
product | 3-Chloro-N-(2-fluoro-phenyl)-5-[2-(pyridin-4-ylamino)-ethoxy]-N-(3-tetrazol-2-yl-propyl)-benzamide | 0.035 g | ClC=1C=C(C(=O)N(CCCN2N=CN=N2)C2=C(C=CC=C2)F)C=C(C1)OCCNC1=CC=NC=C1 | C24H23ClFN7O2
